US08580781B2
1. Preparation of [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]methanol
3.46 g of methyl 3-(5-methyl-1,2,4-oxadiazol-3-yl)benzoate (15.86 mmol) are dissolved in 50 ml of abs. THF in a 250 ml three-necked flask, and 0.691 g of LiBH4 (31.71 mmol) is subsequently introduced in portions with stirring at 0° C. under a nitrogen atmosphere, and the mixture is stirred without cooling for a further 20 h. For work-up, the reaction mixture is adjusted to pH 7 by slow dropwise addition of 1 N HCl with stirring, diluted with 100 ml of water and extracted 3× with 50 ml of dichloromethane. The combined organic phases are washed 1× 100 ml of water, dried over sodium sulfate and evaporated to dryness in a rotary evaporator. The purification is carried out by chromatography (50 g of silica gel/DCM+0-1% of MeOH). The product is crystallised from diethyl ether/petroleum ether; m.p. 57-58° C.

reactant | methyl 3-(5-methyl-1,2,4-oxadiazol-3-yl)benzoate | 15.86 mmol, 3.46 g | CC1=NC(=NO1)C=1C=C(C(=O)OC)C=CC1 | C11H10N2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | LiBH4 | 31.71 mmol, 0.691 g | [Li+].[BH4-]
reactant | HCl | 1 N | Cl | ClH
solvent | water | 100 ml | O | H2O
product | [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]methanol | CC1=NC(=NO1)C=1C=C(C=CC1)CO | C10H10N2O2
